Name:  ___                          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
sarna lotion
 
Attending: ___.
 
Chief Complaint:
altered mental status
chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ presenting from ___, for acute worsening 
of mental status accompanied by chest pain and low BP.  
.  
History is obtained from family and RN at ___ 
as pt is currently non-communicative. Per RN, pt was found 
clammy, pale, and less responsive early this afternoon. with RR 
in mid ___. When she was aroused more with stimulation, pt 
reported not feeling well and having pain in her chest. 
Ambulance was quickly called and pt was brought to ___. ECG in 
field unremarkable. RN reports that notes say pt had been 
declining over last ___ days. This AM she had a temp to 101.3 
which came down with tylenol. No other specific sympotms noted 
other than looking more unwell and generally less energetic. Pt 
had also developed two lower extremity lesions during her stay 
which had been treated from ___ - ___ with Keflex.  
.  
Per family, when they visit the pt this AM she was interactive 
and alert with them. She was endorsing more trouble breathing 
than normal and did have an elevated BP to 160s/80s. They were 
not present when pt became acutely worse in the afternoon. At 
baseline pt is A&O x 3, demented but responsive and recognizing 
some family members. She recently was admitted to ___ for 5 
days and treated for a PNA. She was discharged from there to 
___ on ___ and has been there since. 
Previously the patient was living alone in an apartment. Her 
family would cook her breakfast and lunch and a home health aide 
would come for 4 hrs a day in the evening and cook her dinner. 
However, pt was able to get around her apartment without 
assistance and take care of dressing and bathing herself. Pt is 
___ speaking only and is usually able to follow one sentance 
commands.  
.  
In ED, initial VS 98.3 78 116/50 18 95% 2L. CXR showed PNA vs 
fluid and pt was given 40mg IV lasix. Her BP intermittently 
dropped to the ___ systolic. She was given 750mg levofloxacin as 
well as ASA and tylenol. A foley was placed. At this point pt 
looked very tenuous and in setting of WBC elevation, history of 
fevers, and hypotension, concern that pt becoming septic. ED 
resident contacted pts HCP with aide of ___ interpreter and 
had discussion about goals of care. CODE STATUS is DNR/DNI and 
family does not want ICU admission, central line placement, 
pressors, or painful interventions. They would like pt to be 
treated otherwise and are not ready for CMO status so pt was 
admitted to the medical floor. VS at transfer were HR 71, BP 
92/41, RR 18, Sats 99% 4l.  
.  
Currently, pt is not able to answer questions. Discussion was 
had with family about severity of patient's illness and goals of 
care. The re-articulated the goals as discussed with the 
emergency department. They understand that pt is very sick and 
has the potential to die during this admission.  

 
Past Medical History:
- Dementia  
- Cataracts  
- Recent PNA (admitted to ___ and d/ced on ___  

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
VS - Temp afebrile, HR 71, BP 92/41, RR 18, Sats 99% 4l  
GENERAL - non-communicative, some respiratory distress  
HEENT - sclerae anicteric, dry MM  
NECK - supple, no JVD  
LUNGS - decreased breath sounds bilaterally, no anterior 
wheezing, faint crackles, using accessory muscles  
HEART - PMI non-displaced and prominent, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/cannot tell if painful, ND, no masses or 
HSM  
EXTREMITIES - warm, 3+ pitting up to knee bilaterally, both 
ankles are wrapped in kerlex with gauze over lesions, lesion on 
R ankle has central black eschar with surrounding erythema on 
medial surface, no drainage currently, L ankle has area of skin 
darkening without obvious skin break  
NEURO - eyes open, but not responding to environment or 
question, moving extremities spontaneously  

 
Pertinent Results:
___ 09:20AM BLOOD WBC-11.9* RBC-2.99* Hgb-9.6* Hct-32.0* 
MCV-107* MCH-32.1* MCHC-30.1* RDW-15.7* Plt ___
___ 04:19AM BLOOD WBC-19.3* RBC-3.05* Hgb-9.8* Hct-32.1* 
MCV-105* MCH-32.1* MCHC-30.5* RDW-15.0 Plt ___
___ 05:21AM BLOOD WBC-22.8* RBC-2.90* Hgb-9.2* Hct-30.3* 
MCV-104* MCH-31.7 MCHC-30.4* RDW-15.2 Plt ___
___ 05:00PM BLOOD WBC-23.2*# RBC-3.07* Hgb-9.6* Hct-31.7* 
MCV-104* MCH-31.5 MCHC-30.4* RDW-16.2* Plt ___
___ 05:00PM BLOOD ___ PTT-30.3 ___
___ 09:20AM BLOOD Glucose-106* UreaN-40* Creat-1.7* Na-146* 
K-4.7 Cl-104 HCO3-37* AnGap-10
___ 04:19AM BLOOD Glucose-108* UreaN-42* Creat-2.1* Na-142 
K-4.8 Cl-102 HCO3-34* AnGap-11
___ 05:00PM BLOOD ALT-14 AST-30 LD(LDH)-330* AlkPhos-62 
TotBili-0.4
___ 05:00PM BLOOD cTropnT-0.01
___ 04:19AM BLOOD Calcium-8.5 Phos-4.0 Mg-1.8
___ 05:31AM BLOOD Glucose-87 UreaN-30* Creat-1.3* Na-147* 
K-4.6 Cl-105 HCO3-39* AnGap-8
___ 10:00AM BLOOD Glucose-180* UreaN-26* Creat-1.2* Na-140 
K-4.4 Cl-99 HCO3-35* AnGap-10
.
MICROBIOLOGY:
All cultures - negative (blood x2, urine x1, legionella)
.
AP CHEST, 3:29 A.M. ON ___ 
  
HISTORY: A ___ woman with pneumonia and recent 
desaturation and 
tachycardia. 
  
IMPRESSION: AP chest compared to ___: 
  
Pulmonary vascular congestion has worsened to the point of early 
pulmonary 
edema, increasing the small right pleural effusion as well as 
vascular 
caliber. Heterogeneous opacification at both lung bases could be 
any 
combination of asymmetric edema, atelectasis, aspiration, and 
pneumonia. Left lower lobe atelectasis has worsened. No 
pneumothorax. The heart is 
moderately enlarged and the azygos vein is borderline distended. 

  
___. ___ 
___: ___ 1:39 ___ 
.
ECG Study Date of ___  4:51:52 ___ 
Normal sinus rhythm. Normal tracing. No previous tracing 
available for 
comparison.  
Read by: ___ 
   ___ Axes 
Rate PR QRS QT/QTc P QRS T 
76 142 78 ___ ___ presenting from ___, for acute worsening 
of mental status accompanied by chest pain and low BP with 
elevated WBC and temp at rehab concerning for new pneumonia.  
.  
# Pneumonia, possibly complicated by empyema: The patient was 
treated with cefepime, vancomycin, and levaquin for hospital 
acquired pneumonia.  Imaging also showed bilateral pleural 
effusions that were likely infected as well, since she failed to 
improve on antibiotics.  Given her clinical status and 
bilaterality of the fluid collections, it was determined that 
thoracenteses were too high of a risk for her and were deferred. 
 She intermittently desaturated, requiring high flow oxygen.  
These episodes were likely multifactorial, secondary to 
aspiration, continued pneumonia, and mucus plugging.  Though she 
was DNR/DNI on admission, further goals of care discussions 
later in her hospitalization indicated that the family wanted to 
focus on comfort.  After an acute aspiration episode, suctioning 
was attempted and IV morphine was pushed.  Ultimately, the 
patient had a respiratory arrest and passed away.  Family was at 
her bedside and were given the opportunity to say their 
goodbyes.  Autopsy was offered and declined.  

# Atrial fibrillation with RVR:  She went into a rapid 
ventricular rate with new onset atrial fibrillation with 
hypotension, requiring initiation of amiodarone IV for control.  
She converted to sinus rhythm. Given her goals of care, 
amiodarone was discontinued and her telemetry was discontinued 
for her comfort.  

# Leg Wound: The patient's leg wound was superficial and treated 
by wound care.
.  
# Goals of Care:  After a discussion with the family, the 
patient was made DNR/DNI, no ICU transfer, no pressors, no 
invasive procedures, all confirmed with family on numerous 
occasions.  
 
Medications on Admission:
- Exelon Patch (for alzheimers)  
- Doxapin 25mg Qhs  
- Senna  
- Docusate  
- Ducolax  
- Tylenol  
- Atenolol 25mg qd  
- Calcium/Vit D  
- Magic Mouth Wash  
- Lasix 20mg qd  
- Trazadone 75mg qd  
- Melatonin  
- Xalantin eye drops  
- Bromotidine eye drops (?)  
- Cyclosprin eye drops  
- Timolol eye drops  
- Dorzolamide eye drops  

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
N/A
 
Discharge Condition:
N/A
 
Discharge Instructions:
N/A
 
Followup Instructions:
___